US08071625B2
To a solution of (2S,4R)-tert-butyl 4-(((9H-fluoren-9-yl)methoxy)carbonylamino)-2-(hydroxymethyl)pyrrolidine-1-carboxylate (403 mg, 0.92 mmol) and DMAP (134 mg, 1.1 mmol) in THF (10 mL) was added 4-ethylphenyl isocyanate (162 mg, 11 mmol). The reaction mixture was stirred at rt overnight and concentrated to give (2S,4R)-tert-butyl 4-(((9H-fluoren-9-yl)methoxy)carbonylamino)-2-((4-ethylphenylcarbamoyloxy)methyl)pyrrolidine-1-carboxylate, which was used without further purification. LRMS (M+H+) m/z 585.1.

reactant | (2S,4R)-tert-butyl 4-(((9H-fluoren-9-yl)methoxy)carbonylamino)-2-(hydroxymethyl)pyrrolidine-1-carboxylate | 0.92 mmol, 403 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C25H30N2O5
reactant | 4-ethylphenyl isocyanate | 11 mmol, 162 mg | C(C)C1=CC=C(C=C1)N=C=O | C9H9NO
catalyst | DMAP | 1.1 mmol, 134 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2S,4R)-tert-butyl 4-(((9H-fluoren-9-yl)methoxy)carbonylamino)-2-((4-ethylphenylcarbamoyloxy)methyl)pyrrolidine-1-carboxylate | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)COC(NC1=CC=C(C=C1)CC)=O | C34H39N3O6
